.SUBCKT gf180mcu_fd_sc_mcu9t5v0__aoi222_4 A1 A2 B1 B2 C1 C2 ZN VDD VDD VSS VSS
*.PININFO A1:I A2:I B1:I B2:I C1:I C2:I ZN:O VDD:P VDD:P VSS:P VSS:G
*.EQN ZN=!(((A1 * A2) + (B1 * B2)) + (C1 * C2))
M_i_4_3 net_2_3 C1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5_3 VSS C2 net_2_3 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5_2 net_2_2 C2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_2 ZN C1 net_2_2 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_1 net_2_1 C1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5_1 VSS C2 net_2_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_5_0 net_2_0 C2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_4_0 ZN C1 net_2_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_0 net_1_3 B1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_0 VSS B2 net_1_3 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_1 net_1_2 B2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_1 ZN B1 net_1_2 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_2 net_1_1 B1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_2 VSS B2 net_1_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_3_3 net_1_0 B2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_2_3 ZN B1 net_1_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_0 net_0_3 A1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_0 VSS A2 net_0_3 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_1 net_0_2 A2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_1 ZN A1 net_0_2 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_2 net_0_1 A1 ZN VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_2 VSS A2 net_0_1 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_1_3 net_0_0 A2 VSS VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_0_3 ZN A1 net_0_0 VSS nmos_6p0 W=1.320000U L=0.600000U
M_i_10_3 net_4 C1 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11_3 VDD C2 net_4 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11_2 net_4 C2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_10_2 VDD C1 net_4 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_10_1 net_4 C1 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11_1 VDD C2 net_4 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_11_0 net_4 C2 VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_10_0 VDD C1 net_4 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_0 net_4 B1 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_0 net_3 B2 net_4 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_1 net_4 B2 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_1 net_3 B1 net_4 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_2 net_4 B1 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_2 net_3 B2 net_4 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_9_3 net_4 B2 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_8_3 net_3 B1 net_4 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_0 ZN A1 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_0 net_3 A2 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_1 ZN A2 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_1 net_3 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_2 ZN A1 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_2 net_3 A2 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_7_3 ZN A2 net_3 VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_6_3 net_3 A1 ZN VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
